US05728686
b) 1-Benzyl-7-ethoxymethyl-3-methylxanthine
205 g (1.2 mol) of benzyl bromide were added to a suspension of 224 g (1 mol) of 7-ethoxymethyl-3-methylxanthine and 165 g of potassium carbonate in 1000 ml of dimethylformamide and the mixture was then stirred overnight at 90° C. The reaction solution was filtered hot, the filtrate was concentrated under reduced pressure and the residue was dried to constant weight in a bulb tube at 1 mbar and 60° C.

reactant | benzyl bromide | 1.2 mol, 205 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 7-ethoxymethyl-3-methylxanthine | 1 mol, 224 g | C(C)OCN1C=NC=2N(C(NC(C12)=O)=O)C | C9H12N4O3
reactant | potassium carbonate | 165 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1000 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-7-ethoxymethyl-3-methylxanthine | C(C1=CC=CC=C1)N1C(=O)N(C=2N=CN(C2C1=O)COCC)C | C16H18N4O3
